US05166347
Preparation of N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 2-(2-chlorophenyl)ethylamine (0.45 g, 2.9 mmol) was added. The mixture was stirred at room temperature for 7 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C-200, 30 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure, and the concentrated residue thus obtained was crystallized from methanolhexane to give the title compound (0.56 g, 2.0 mmol, yield: 75%) as colorless crystals.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2-(2-chlorophenyl)ethylamine | 2.9 mmol, 0.45 g | ClC1=C(C=CC=C1)CCN | C8H10ClN
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide | 2.0 mmol, 0.56 g, yield: 75% | C(#N)NC(=NCCC1=C(C=CC=C1)Cl)C=1C=NC=CC1 | C15H13ClN4
